US05716971
To a mixture of carbon tetrabromide (56.58 g), triphenylphosphine (44.61 g) and zinc powder (11.18 g) was added dichloromethane (300 ml), and the mixture was stirred for 25 hours at room temperature. To the mixture was then added p-methoxymethoxybenzaldehyde (13.91 g), which was stirred for 30 hours. The reaction mixture was subjected to filtration through celite, and the filtrate was concentrated under reduced pressure. The residue was purified by means of a silica gel column chromatography (eluted with ethyl acetate/hexane) to give 4-(2,2-dibromoethenyl)phenol methoxymethyl ether (17.84 g) (Compound B-25). The physical properties are shown in Table 7.

reactant | carbon tetrabromide | 56.58 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 44.61 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | p-methoxymethoxybenzaldehyde | 13.91 g | COCOC1=CC=C(C=O)C=C1 | C9H10O3
catalyst | zinc | 11.18 g | [Zn] | Zn
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 4-(2,2-dibromoethenyl)phenol methoxymethyl ether | 17.84 g | COCOC1=CC=C(C=C1)C=C(Br)Br | C10H10Br2O2
